US07259176B2
A 750 ml, 4-necked glass flask equipped with a mechanical stirrer, a thermometer, a dropping funnel and an argon inlet was charged under argon with 41.0 g (100 mmol) of tributylammonium hydroxy-(4-hydroxy-benzo[b]thiophen-7-yl)-acetate, 60.5 g (115 mmol) of iron(III) sulfate and a mixture prepared from 60 ml of dry ethanol and 300 ml of 0.4 N sulfuric acid aqueous solution. Then stirring was started and the reaction mixture was heated to 55-60° C. for 5 h. After cooling to room temperature, 300 ml of isopropyl acetate and 100 ml of water were added under stirring, then the organic phase was separated and transferred into a 500 ml glass flask equipped with a pH meter. After addition of 150 ml of water (pH was 3.0), ca. 58 ml of a 2 N sodium hydroxide aqueous solution were added dropwise at 20° C. until a pH of 12-12.5 was reached. The organic phase was removed and to the aqueous phase were added at 10-15° C. dropwise ca. 54 ml of a 2 N aqueous solution of sulfuric acid until a pH of 4-4.5 was reached. The product precipitated during the addition. The suspension was stirred over night at room temperature, 1.2 h in an ice bath and then filtered. The filter cake was washed with water and dried at 60° C./15 mbar to afford 17.23 g (94%) of 4-hydroxy-benzo[b]thiophene-7-carboxaldehyde as white crystals with m.p. of 204° C.

reactant | tributylammonium hydroxy-(4-hydroxy-benzo[b]thiophen-7-yl)-acetate | 100 mmol, 41.0 g | OC(C(=O)[O-])C1=CC=C(C2=C1SC=C2)O.C(CCC)[NH+](CCCC)CCCC
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | sulfuric acid | 0.4 N, 300 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropyl acetate | 300 ml | C(C)(=O)OC(C)C | C5H10O2
catalyst | iron(III) sulfate | 115 mmol, 60.5 g | S(=O)(=O)([O-])[O-].[Fe+3].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[Fe+3]
solvent | water | 100 ml | O | H2O
product | 4-hydroxy-benzo[b]thiophene-7-carboxaldehyde | 17.23 g, 94% | OC1=CC=C(C=2SC=CC21)C=O | C9H6O2S
